US06214345B1
Preparation of Alloc-D-Phe (16)
D-Phe (2.0203 g, 12.29 mmoles) and NaHCO3 (1.08 g, 1.05 equiv.) in water (30 ml) were treated with diallyl dicarbonate (2.13 ml, 1.05 equiv.) in DME (30 ml). The mixture was stirred at room temperature for about 16 hours and then poured into 15% citric acid. The resulting suspension was extracted with EtOAc (2×100 ml). The combined organic layers were washed with water (3×100 ml) and brine, dried and evaporated to give a colorless foam which was pure enough to carry on to the next step (3.002 g, 98%). 1H-NMR (CDCl3/CD3OD): δ3.13 (2H, AB q, Phe CH2), 4.52 (2H, d, CH2—O), 4.64 (1H, q, Phe CH), 5.20 (2H, q, vinyl CH2), 5.85 (1H, m, vinyl CH), 7.21 (5H, m, Ph); MS (DCI): 250 (MH)+, 192 (M—C3H50)+;

reactant | D-Phe | 12.29 mmoles, 2.0203 g | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | NaHCO3 | 1.08 g, 1.05 equiv. | C(=O)(O)[O-].[Na+]
reactant | diallyl dicarbonate | 2.13 ml, 1.05 equiv. | C(=O)(OCC=C)OC(=O)OCC=C | C8H10O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 30 ml | O | H2O
solvent | DME | 30 ml | COCCOC | C4H10O2
product | Alloc-D-Phe | N([C@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC=C | C13H15NO4
